US04529736
3a-(4-Azidophenyl)octahydro-2,2-dimethyl-4,7-methano-1H-isoindolium iodide
A mixture of 150 mg of 3a-(4-azidophenyl)octahydro-2-methyl-4,7-methano-1H-isoindole and 0.05 ml of methyl iodide in 4 ml of ether was allowed to stand for 2 weeks to give 200 mg of the desired product as a yellow solid.

reactant | 3a-(4-azidophenyl)octahydro-2-methyl-4,7-methano-1H-isoindole | 150 mg | N(=[N+]=[N-])C1=CC=C(C=C1)C12CN(CC2C2CCC1C2)C | C16H20N4
reactant | methyl iodide | 0.05 ml | CI | CH3I
solvent | ether | 4 ml | CCOCC | C4H10O
product | 3a-(4-Azidophenyl)octahydro-2,2-dimethyl-4,7-methano-1H-isoindolium iodide | 200 mg | [I-].N(=[N+]=[N-])C1=CC=C(C=C1)C12C[N+](CC2C2CCC1C2)(C)C | InChI=1S/C17H23N4.HI/c1-21(2)10-16-12-3-4-14(9-12)17(16,11-21)13-5-7-15(8-6-13)19-20-18;/h5-8,12,14,16H,3-4,9-11H2,1-2H3;1H/q+1;/p-1
